US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine
(5-Bromo-2-methylpentane-2-sulfonyl)benzene (5 g, 16.4 mmol), 3-hydroxypiperidine (2 g, 20 mmol) and potassium carbonate (4.5 g, 33 mmol) in acetonitrile (50 ml) were stirred at 50° C. for 18 hours. The cooled reaction mixture was partitioned between ethyl acetate and brine. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 120:8:1 dichloromethane/methanol/ammonia, to give the title compound (5.2 g, 98%).

reactant | (5-Bromo-2-methylpentane-2-sulfonyl)benzene | 16.4 mmol, 5 g | BrCCCC(C)(S(=O)(=O)C1=CC=CC=C1)C | C12H17BrO2S
reactant | 3-hydroxypiperidine | 20 mmol, 2 g | OC1CNCCC1 | C5H11NO
reactant | potassium carbonate | 33 mmol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine | 5.2 g, 98% | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)O)(C)C | C17H27NO3S
